US07002032B2
A ruthenium trichloride hydrate was placed in a separable flask of 5 L in volume so as to contain 80.15 g of ruthenium. To the flask, further 3,500 mL of water and 297.5 g of 2,4-pentanedione were added and refluxed in the air for 2 hours. To the resultant solution, 330 g of sodium acid carbonate was added and refluxed for another 2 hours. From the obtained reaction solution, the organic phase was extracted, vaporized, and dried to obtain 285.3 g of tris(2,4-pentanedionato)ruthenium as a red crystal.

reactant | ruthenium trichloride hydrate | O.[Ru](Cl)(Cl)Cl
reactant | ruthenium | 80.15 g | [Ru] | Ru
reactant | 2,4-pentanedione | 297.5 g | CC(CC(C)=O)=O | C5H8O2
reactant | sodium acid carbonate | 330 g | C(=O)(O)[O-].[Na+]
solvent | water | 3,500 mL | O | H2O
product | tris(2,4-pentanedionato)ruthenium | 285.3 g | CC(=O)CC(=O)C.CC(=O)CC(=O)C.CC(=O)CC(=O)C.[Ru] | InChI=1S/3C5H8O2.Ru/c3*1-4(6)3-5(2)7;/h3*3H2,1-2H3;
